US07816522B2
(1c) 2-(2-fluoro-4,5-dimethoxyphenyl)-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamino]thioacetimidic acid methyl ester
After adding 3.62 g of trimethyloxonium tetrafluoroborate (hereinafter, “Me3O+BF4−”) to a solution of 8.59 g of 2-(2-fluoro-4,5-dimethoxyphenyl)-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamino]thioacetamide in 400 ml of dichloromethane under a nitrogen atmosphere, the mixture was stirred at room temperature for 15 hours. Saturated aqueous sodium hydrogencarbonate was added to the reaction mixture and extraction was performed with dichloromethane. After washing the organic layer with saturated brine, it was dried over anhydrous sodium sulfate. The desiccating agent was filtered, and the filtrate was concentrated under reduced pressure to give the title compound (8.89 g, crude product) as an oil.

reactant | trimethyloxonium tetrafluoroborate | 3.62 g | F[B-](F)(F)F.C[O+](C)C
reactant | BF4− | F[B-](F)(F)F
reactant | 2-(2-fluoro-4,5-dimethoxyphenyl)-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamino]thioacetamide | 8.59 g | FC1=C(C=C(C(=C1)OC)OC)C(C(=S)N)NC1=CC=C(C=C1)C1=NOC(=N1)C | C19H19FN4O3S
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
product | 2-(2-fluoro-4,5-dimethoxyphenyl)-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamino]thioacetimidic acid methyl ester | 8.89 g | CSC(C(NC1=CC=C(C=C1)C1=NOC(=N1)C)C1=C(C=C(C(=C1)OC)OC)F)=N | C20H21FN4O3S
